US05389641
23d) 4-Cyano-5-(p-tolyl)pyrimidine
A mixture of 4-chloro-5-(p-tolyl)pyrimidine (7.4 g, 36 mmol), potassium cyanide (4.74 g, 72 mmol) and 18-crown-6 ether (0.48 g, 2 mmol) in acetonitrile (130 ml) was heated under reflux for 17 hours. After removal of insoluble materials by filtration from the reaction mixture, the filtrate was concentrated to dryness. The residue was purified by column chromatography on silica gel to give crystals. Recrystallization from ethyl acetate-hexane afforded pale yellow needles (4.17 g, 59%), m.p. 107°-109° C.

reactant | 4-chloro-5-(p-tolyl)pyrimidine | 36 mmol, 7.4 g | ClC1=NC=NC=C1C1=CC=C(C=C1)C | C11H9ClN2
reactant | potassium cyanide | 72 mmol, 4.74 g | [C-]#N.[K+]
reactant | 18-crown-6 ether | 2 mmol, 0.48 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
product | 4-Cyano-5-(p-tolyl)pyrimidine | C(#N)C1=NC=NC=C1C1=CC=C(C=C1)C | C12H9N3
